US05599770
Synthesis of 4,6-dibromo-2-(phenylmethoxy)pyrimidine (Compound I-81)
4,6-dibromo-2-(methysulfonyl)pyrimidine (Compound III-3) (1.5 g, 0.00476 mol) was dissolved in toluene, and benzyl alcohol (Compound II-64) (0.515 g, 0.00476×1.0 mol) was added thereto. While cooling with ice, 60% sodium hydride (0.21 g, 0.00476×1.1 mol) was added while stirring. After stirred for 6 hours, the reaction solution was poured into water and extracted with toluene. The organic phase was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and filtered, and thereafter, the solvent was distilled off. The residue was purified on silica gel column chromatography (Wakogel C300, 100 ml, ethyl acetate/hexane=20 ml/400 ml) to obtain the compound (I-81) as an oily product from the fraction of 100 ml to 120 ml.

reactant | 4,6-dibromo-2-(methysulfonyl)pyrimidine | 0.00476 mol, 1.5 g | BrC1=NC(=NC(=C1)Br)S(=O)(=O)C | C5H4Br2N2O2S
reactant | benzyl alcohol | 1.0 mol, 0.515 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 1.1 mol, 0.21 g | [H-].[Na+]
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,6-dibromo-2-(phenylmethoxy)pyrimidine | BrC1=NC(=NC(=C1)Br)OCC1=CC=CC=C1 | C11H8Br2N2O
